US08455477B2
A flask was charged with NaH (50 g, 1.25 mol, 60% in mineral oil) and tetrahydrofuran (2,500 ml) and cooled to 0° C. A solution of ethyl 2-(diethoxyphosphoryl)acetate (260 g, 1.16 mol) in tetrahydrofuran F (200 ml) was added dropwise. The resulting solution was allowed stir for 1 h at 0° C. Then a solution of tert-butyl 3-oxopyrrolidine-1-carboxylate (215 g, 1.16 mol) in tetrahydrofuran (300 ml) was added dropwise. The resulting solution was allowed to stir for 0.5 hours at 0° C. The reaction mixture was quenched by the addition of 1,000 ml of saturated aqueous ammonium chloride. The resulting mixture was extracted with ethyl acetate (3×2,000 ml) and the combined organic layers were dried over sodium sulfate, filtered and concentrated. The residue was purified by column chromatography on silica gel (ethyl acetate/petroleum ether gradient) to afford tert-butyl-3-(2-ethoxy-2-oxoethylidene)pyrrolidine-1-carboxylate as colorless oil.

reactant | NaH | 1.25 mol, 50 g | [H-].[Na+]
reactant | ethyl 2-(diethoxyphosphoryl)acetate | 1.16 mol, 260 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | tert-butyl 3-oxopyrrolidine-1-carboxylate | 1.16 mol, 215 g | O=C1CN(CC1)C(=O)OC(C)(C)C | C9H15NO3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2,500 ml | O1CCCC1 | C4H8O
product | tert-butyl-3-(2-ethoxy-2-oxoethylidene)pyrrolidine-1-carboxylate | C(C)(C)(C)OC(=O)N1CC(CC1)=CC(=O)OCC | C13H21NO4
